US09403801B2
Step 8) tert-butyl 2-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)(methyl)amino)-7-azaspiro[4.5]decane-7-carboxylate
To a suspension of tert-butyl 2-((2,5-dichloropyrimidin-4-yl)(methyl)amino)-7-azaspiro[4.5]decane-7-carboxylate (470 mg, 1.13 mmol) and 1-methyl-1H-pyrazol-4-amine hydrochloride (235.7 mg, 1.76 mmol) in n-BuOH (5 mL) was added DIPEA (482.6 g, 3.74 mmol). The reaction mixture was stirred at 150° C. in a sealed tube overnight and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=1/1) to give the title compound as a white solid (280 mg, 52.0%).

reactant | tert-butyl 2-((2,5-dichloropyrimidin-4-yl)(methyl)amino)-7-azaspiro[4.5]decane-7-carboxylate | 1.13 mmol, 470 mg | ClC1=NC=C(C(=N1)N(C1CC2(CC1)CN(CCC2)C(=O)OC(C)(C)C)C)Cl | C19H28Cl2N4O2
reactant | 1-methyl-1H-pyrazol-4-amine hydrochloride | 1.76 mmol, 235.7 mg | Cl.CN1N=CC(=C1)N
reactant | DIPEA | 3.74 mmol, 482.6 g | CCN(C(C)C)C(C)C | C8H19N
solvent | n-BuOH | 5 mL | CCCCO | C4H10O
product | tert-butyl 2-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)(methyl)amino)-7-azaspiro[4.5]decane-7-carboxylate | 280 mg, 52.0% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)N(C1CC2(CC1)CN(CCC2)C(=O)OC(C)(C)C)C | C23H34ClN7O2
